US04933355
2-piperidinothiazol-4-yimethanol
The reaction described in Preparation 15 was repeated, but using 3.0 g of ethyl 2-piperidinothiazole-4-carboxylate, 0.5 g of lithium aluminum hydride and 50 ml of tetrahydrofuran, giving the title compound as pale yellow prisms.

reactant | ethyl 2-piperidinothiazole-4-carboxylate | 3.0 g | N1(CCCCC1)C=1SC=C(N1)C(=O)OCC | C11H16N2O2S
reactant | lithium aluminum hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-piperidinothiazol-4-yimethanol | N1(CCCCC1)C=1SC=C(N1)CO | C9H14N2OS
